US04937387
In this improved process, p-chlorobenzene sulfonic acid is partially converted in a counter-current reaction system with monochlorobenzene to form 4,4'-dichlorodiphenyl sulfone. The unconverted sulfonic acid is separated from the crude sulfone product with a minor amount of water and the aqueous acid is dehydrated and then returned to the reaction zone to form additional 4,4'-dichlorodiphenyl sulfone.

reactant | p-chlorobenzene sulfonic acid | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
solvent | monochlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4,4'-dichlorodiphenyl sulfone | C1=CC(=CC=C1S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C12H8Cl2O2S
